US09284272B2
To a solution of 2-(4-(benzyloxy)-3-methoxyphenyl)acetonitrile (3.1 g, 12.24 mmol) in dichloromethane (30 mL) was added sodium hydroxide (30 mL, 50% aqueous solution, 367 mmol), TBAB (0.99 g, 3.06 mmol) and then with 1,3-dibromopropane (2 mL, 19.58 mmol). The reaction was stirred at room temperature for 72 hours. The layers were separated, organic layer was dried (MgSO4) and concentrated. Purification by flash chromatography (silica gel, 5-25% EtOAc/hexane) afforded 1-(4-(benzyloxy)-3-methoxyphenyl)cyclobutanecarbonitrile (1.8 g, 50%). MS (ESI) m/z 294 (M+H)+.

reactant | 2-(4-(benzyloxy)-3-methoxyphenyl)acetonitrile | 12.24 mmol, 3.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC#N)OC | C16H15NO2
reactant | sodium hydroxide | 367 mmol, 30 mL | [OH-].[Na+]
reactant | 1,3-dibromopropane | 19.58 mmol, 2 mL | BrCCCBr | C3H6Br2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | TBAB | 3.06 mmol, 0.99 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
product | 1-(4-(benzyloxy)-3-methoxyphenyl)cyclobutanecarbonitrile | 1.8 g, 50% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1(CCC1)C#N)OC | C19H19NO2
